US07348354B2
In order to produce the hydrochloride, the more nonpolar diastereoisomer of 1-[2-(4-dimethylamino-4-phenylcyclohexyl)ethyl]-3-[2-(1H-indol-3-yl)ethyl]thiourea (230 mg, 0.5 mmole) was dissolved in ethyl methyl ketone (5 ml) and combined with trimethylchlorosilane (2.5 ml, 26.8 mmole). The colorless solid which precipitated out was removed by suction filtration after 2 h, washed with ethyl methyl ketone (3×5 ml) and then dried. The more nonpolar diastereoisomer of 1-[2-(4-dimethylamino-4-phenylcyclohexyl)-ethyl]-3-[2-(1H-indol-3-yl)ethyl]thiourea hydrochloride was obtained in this manner as a colorless solid (Example 43, m.p. 130-138° C.) in a yield of 240 mg (99%).

reactant | hydrochloride | Cl | ClH
reactant | 1-[2-(4-dimethylamino-4-phenylcyclohexyl)ethyl]-3-[2-(1H-indol-3-yl)ethyl]thiourea | 0.5 mmole, 230 mg | CN(C1(CCC(CC1)CCNC(=S)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C27H36N4S
reactant | trimethylchlorosilane | 26.8 mmole, 2.5 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
product | 1-[2-(4-dimethylamino-4-phenylcyclohexyl)-ethyl]-3-[2-(1H-indol-3-yl)ethyl]thiourea hydrochloride | Cl.CN(C1(CCC(CC1)CCNC(=S)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C27H36N4S.ClH/c1-31(2)27(23-8-4-3-5-9-23)16-12-21(13-17-27)14-18-28-26(32)29-19-15-22-20-30-25-11-7-6-10-24(22)25;/h3-11,20-21,30H,12-19H2,1-2H3,(H2,28,29,32);1H
